US04431653
4-[3-(1H-Imidazol-1-yl)propyl]-piperidine
A mixture of 4[3-(1H-imidazol-1-yl)propyl]-1-piperidinecarboxaldehyde (2.12 g, 0.0095 M) in dioxane (80 ml) and 2 NHCl (11 ml) was refluxed for 51/2 hrs. After the reaction, the solvent was removed, water was added and the solution was basified with 2 N NaOH to pH 10 and extracted with CH2Cl2 (3×50 ml). The extracts were concentrated to give an oil (1.55 g, 80%). The dihydrochloride salt of the 4[3-(1H-imidazol-1-yl)propyl]-piperidine which was crystallized from acetone has m.p. 184°-186° C.

reactant | 4[3-(1H-imidazol-1-yl)propyl]-1-piperidinecarboxaldehyde | 0.0095 M, 2.12 g | N1(C=NC=C1)CCCC1CCN(CC1)C=O | C12H19N3O
solvent | dioxane | 80 ml | O1CCOCC1 | C4H8O2
product | 4-[3-(1H-Imidazol-1-yl)propyl]-piperidine | 1.55 g, 80% | N1(C=NC=C1)CCCC1CCNCC1 | C11H19N3
